US07838673B2
Step 3G: 2-methyl-2-[(pyrazin-2-ylcarbonyl)amino]propanoic acid
A solution of methyl 2-methyl-2-[(pyrazin-2-ylcarbonyl)amino]propanoate (9.8 mmol) and 1 M NaOH in water (19.6 mL) was stirred in methanol for 6 hours. The reaction was diluted with brine and EtOAc and the layers were separated. The aqueous layer was acidified with 1 M HCl in water (28 mL) to an approximate pH˜2. The aqueous was extracted with EtOAc (3×). These three combined extracts were dried (Na2SO4), filtered and concentrated to obtain 1.96 g (96% over two steps) of the title compound. 1H NMR (300 MHz, CD3OD) δ 9.16 (d, J=1.3 Hz, 1H); 8.75 (d, J=2.4 Hz, 1H); 8.65 (dd, J=1.5, 2.4 Hz, 1H); 1.63 (s, 6H). LC/MS: Rt, =1.27 min, ES+210 (Formic Acid Method).

reactant | methyl 2-methyl-2-[(pyrazin-2-ylcarbonyl)amino]propanoate | 9.8 mmol | CC(C(=O)OC)(C)NC(=O)C1=NC=CN=C1 | C10H13N3O3
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | water | 19.6 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | brine | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-methyl-2-[(pyrazin-2-ylcarbonyl)amino]propanoic acid | CC(C(=O)O)(C)NC(=O)C1=NC=CN=C1 | C9H11N3O3
